US04323575
A mixture of N-phenylacetyl-proline (17.4 g.), N-methylmorpholine (7.85 ml.) and analytical grade chloroform (60 ml.) was stirred at room-temperature for 5 minutes. After cooling to -23° C., isobutyl chloroformate (9.23 ml.) was added rapidly during 1 minute. An exothermic reaction occurred and the temperature rose to -15° C. After a further 1 minute of stirring, 1,2-diamino-2-methylpropane (7.86 ml.) was added rapidly and the temperature was allowed to rise to room-temperature with stirring during 2 hours. The mixture was then poured into water (50 ml.) and the organic layer separated and discarded. The aqueous layer was basified (solid potassium carbonate) and extracted with chloroform (4×100 ml.). The chloroform extracts were dried (MgSO4) and evaporated under high vacuum to give N1 -(2-amino-2-methylpropyl)-N2 -phenylacetylprolinamide as an oil (15.5 g.); NMR (δ) (CDCl3): 7.7-6.7 (6H, complex, aromatic H+NHCO); 4.5 (1H, complex, =N--CH--CO); 3.8-2.7 (6H, complex CH2N+PhCH2); 3.65 (singlet, PhCH2); 2.4-1.6 (6H, complex, CH2CH2CH+NH2); and 1.0 [6H, singlet, C(CH3)2 ].

reactant | N-phenylacetyl-proline | 17.4 g | C1(=CC=CC=C1)CC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO3
reactant | N-methylmorpholine | 7.85 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 9.23 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1,2-diamino-2-methylpropane | 7.86 ml | NCC(C)(C)N | C4H12N2
solvent | water | 50 ml | O | H2O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | N1 -(2-amino-2-methylpropyl)-N2 -phenylacetylprolinamide | NC(CN1[C@H](C(=O)NC(CC2=CC=CC=C2)=O)CCC1)(C)C | C17H25N3O2
